US07943652B2
Step a: Preparation of 4-(2-methoxy-vinyl)-3,5-dimethyl-1-phenyl-1H-pyrazole
To an ice-cold suspension of methoxymethyltriphenylphosphonium chloride (26.2 g, 74.9 mmol) in 300 mL tetrahydrofuran was added n-butyllithium (31 mL, 2.5 M in hexane). The mixture was stirred at 0° C. for 15 minutes and treated with 3,5-dimethyl-1-phenyl-1H-pyrazole-4-carbaldehyde (7.5 g, 37.5 mmol, suspended in 150 mL tetrahydrofuran). The mixture was slowly warmed to room temperature over 2 hours and quenched by slow addition of a saturated aqueous sodium chloride solution. The resulting white precipitate was removed by filtration and the filtrate was extracted several times with ethyl acetate. The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to an oil, which was purified via silica gel column chromatography (0-20% ethyl acetate in heptane) to provide the title compound as a yellow oil (7.09 g, 31.1 mmol, 83% yield) as a mixture of E:Z isomers.

reactant | methoxymethyltriphenylphosphonium chloride | 74.9 mmol, 26.2 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 2.5 M, 31 mL | C(CCC)[Li]
reactant | 3,5-dimethyl-1-phenyl-1H-pyrazole-4-carbaldehyde | 37.5 mmol, 150 mL, 7.5 g | CC1=NN(C(=C1C=O)C)C1=CC=CC=C1 | C12H12N2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 4-(2-methoxy-vinyl)-3,5-dimethyl-1-phenyl-1H-pyrazole | 31.1 mmol, 7.09 g, 83% yield | COC=CC=1C(=NN(C1C)C1=CC=CC=C1)C | C14H16N2O
